US08686184B2
(2R,3R)-4-(2-Chlorophenyl)-3-[4-ethyl-3-(6-methyl-2,4-dioxo-1,4-dihydro-2H-thieno[2,3-d]pyrimidin-3-yl)-benzoylamino]-2-hydroxy-butyric Acid
Methyl 2-isocyanato-5-methylthiophene-3-carboxylate (116 mg, 588 μmol, 1.5 eq.) was dissolved in DMF (1000 μL) then combined with 3-amino-4-ethyl-benzoic acid (64.8 mg, 392 μmol, 1.0 eq.) and DIPEA (137 μL, 2.0 eq.). The mixture was heated at 70° C. overnight. The solvent was removed and the product was combined with DMF (500 μL) and HATU (298 mg, 784 μmol, 2.0 eq.). The mixture was stirred at room temperature for 15 minutes before adding (2R,3R)-3-Amino-4-(2-chloro-phenyl)-2-hydroxy-butyric acid ethyl ester (TFA salt, 146 mg, 392 μmol, 1.0 eq.) in DIPEA (137 μL, 2.0 eq.) and DMF (500 μL). The mixture was stirred overnight at room temperature. The solvent was removed and the product was dissolved in THF (600 μL) and 2 M aqueous NaOH (600 μL). The mixture was heated at 80° C. overnight. The product was purified by preparative HPLC to yield the title compound (12.3 mg, 100% purity). MS m/z [M+H]+ calc'd for C26H24ClN3O6S, 542.11. found 542.0.

reactant | Methyl 2-isocyanato-5-methylthiophene-3-carboxylate | 588 μmol, 116 mg, 1.5 eq. | N(=C=O)C=1SC(=CC1C(=O)OC)C | C8H7NO3S
reactant | 3-amino-4-ethyl-benzoic acid | 392 μmol, 64.8 mg, 1.0 eq. | NC=1C=C(C(=O)O)C=CC1CC | C9H11NO2
reactant | DIPEA | 137 μL, 2.0 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 784 μmol, 298 mg, 2.0 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3R)-3-Amino-4-(2-chloro-phenyl)-2-hydroxy-butyric acid ethyl ester | 392 μmol, 146 mg, 1.0 eq. | C(C)OC([C@@H]([C@@H](CC1=C(C=CC=C1)Cl)N)O)=O | C12H16ClNO3
reactant | DIPEA | 137 μL, 2.0 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1000 μL | CN(C)C=O | C3H7NO
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
product | (2R,3R)-4-(2-Chlorophenyl)-3-[4-ethyl-3-(6-methyl-2,4-dioxo-1,4-dihydro-2H-thieno[2,3-d]pyrimidin-3-yl)-benzoylamino]-2-hydroxy-butyric Acid | 12.3 mg, 100% | ClC1=C(C=CC=C1)C[C@H]([C@H](C(=O)O)O)NC(C1=CC(=C(C=C1)CC)N1C(NC2=C(C1=O)C=C(S2)C)=O)=O | C26H24ClN3O6S
